US09260414B2
5-Amino-2-bromo-4-chlorobenzotrifluoride
A solution of N-bromosuccinimide (1.0 g, 5.6 mmol) dissolved in DMF (3 mL) was slowly added to a mixture of 3-amino-4-chlorobenzotrifluoride (1 g, 5 mmol) dissolved in DMF (2 mL) and the reaction mixture was stirred at RT for 20 min, concentrated, and extracted with ethyl acetate/water. The organic layer was dried over sodium sulfate, filtered, concentrated, and purified by flash chromatography (eluted with 100% hexanes) to produce the title intermediate as a reddish colored oil (970 mg, 70% yield). (m/z): [M+H]+ calcd for C7H4BrClF3N 273.92, 275.92. found 276.2.

reactant | N-bromosuccinimide | 5.6 mmol, 1.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-amino-4-chlorobenzotrifluoride | 5 mmol, 1 g | NC=1C=C(C=CC1Cl)C(F)(F)F | C7H5ClF3N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-Amino-2-bromo-4-chlorobenzotrifluoride | 970 mg, 70% yield | NC=1C(=CC(=C(C1)C(F)(F)F)Br)Cl | C7H4BrClF3N
